US08183246B2
3-[(1S)-2-Benzyloxy-1-methylethoxy]propionic acid tert.-butyl ester
Cool a mixture of 20 g (120.3 mmol) (+)-(S)-1-benzyloxy-2-propanol and 123 g (962 mmol) tert.-butyl acrylate to 0° C. and add 962 mg (24 mmol, 60%) sodium hydride in several portions. Stir the mixture for 10 min at 0° C., then carefully add satd. ammonium chloride solution. After phase separation, extract the aqueous phase twice with dichloromethane. Combine the organic phases, dry over magnesium sulphate and concentrate under vacuum, then at high vacuum. Purify the raw product by chromatography on silica gel (eluent: cyclohexane/ethyl acetate 30:1). 18.4 g of the target compound (51.9% of theor.) is obtained.

reactant | (+)-(S)-1-benzyloxy-2-propanol | 120.3 mmol, 20 g | C(C1=CC=CC=C1)OC[C@H](C)O | C10H14O2
reactant | tert.-butyl acrylate | 962 mmol, 123 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | sodium hydride | 24 mmol, 962 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
product | 3-[(1S)-2-Benzyloxy-1-methylethoxy]propionic acid tert.-butyl ester | 18.4 g, 51.9% | C(C)(C)(C)OC(CCO[C@H](COCC1=CC=CC=C1)C)=O | C17H26O4
